US07745438B2
(2R,5R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(3,3-dimethylbutoxy)-morpholine-4-carboxylic acid tert-butyl ester
Stir (2S,5R)-5-[(1S,2S)-2-Acetylamino-1-benzyloxy-3-(3,5-difluorophenyl)-propyl]-2-(3,3-dimethylbutoxy)-morpholine-4-carboxylic acid tert-butyl ester (0.18 g, 0.29 mmol) and 10% palladium on carbon (0.18 g) in ethanol (5 mL) under hydrogen at room temperature for 14 hours. Filter through Celite® and concentrate to give the title compound (0.148 g, 99.4% yield).

reactant | (2S,5R)-5-[(1S,2S)-2-Acetylamino-1-benzyloxy-3-(3,5-difluorophenyl)-propyl]-2-(3,3-dimethylbutoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.29 mmol, 0.18 g | C(C)(C)(C)OC(=O)N1C[C@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)OCC1=CC=CC=C1)OCCC(C)(C)C | C33H46F2N2O6
catalyst | palladium on carbon | 0.18 g | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (2R,5R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(3,3-dimethylbutoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.148 g, 99.4% yield | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)OCCC(C)(C)C | C26H40F2N2O6
